US08563539B2
(Z)-5-((2-(Methylthio)-6-(trifluoromethyl)pyrimidin-4-yl)methylene)thiazolidine-2,4-dione
A 30 mL round-bottomed vial was charged with 4-methyl-2-(methylthio)-6-(trifluoromethyl)pyrimidine (0.500 g, 2.4 mmol, 1 equiv.), ethanol (5 mL, 0.48 M), selenium dioxide (0.293 mg, 2.6 mmol, 1.1 equiv.), and the reaction mixture was shaken at 90° C. for 40 h and then RT for 14 d. The crude reaction mixture was then treated with thiazolidine-2,4-dione (0.281 g, 2.4 mmol, 1 equiv.), triethylamine (1.0 mL, 7.20 mmol, 3 equiv.) and the reaction mixture was shaken for 16 h at 80° C. The solvent was concentrated under reduced pressure and the residue was partitioned between EtOAc (30 mL) and saturated NaHCO3 (25 mL). The aqueous layer was extracted with EtOAc (2×10 mL) and the combined organic layer was dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified using the Biotage (SiO2, 10 g cartridge, CH2Cl2/MeOH 99:1 to 9:1) that afforded 270 mg of partially purified product that was re-purified using the Biotage (SiO2, 10 g cartridge, Hexanes/EtOAc 90:10 to 0:1 then CH2Cl2/MeOH 99:1 to 9:1) afforded 212 mg of yellow solid that was still not completely pure but was used directly in the next step without further purification.

reactant | 4-methyl-2-(methylthio)-6-(trifluoromethyl)pyrimidine | 2.4 mmol, 0.500 g, 1 equiv. | CC1=NC(=NC(=C1)C(F)(F)F)SC | C7H7F3N2S
reactant | selenium dioxide | 2.6 mmol, 0.293 mg, 1.1 equiv. | [Se](=O)=O | O2Se
reactant | thiazolidine-2,4-dione | 2.4 mmol, 0.281 g, 1 equiv. | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | triethylamine | 7.20 mmol, 1.0 mL, 3 equiv. | C(C)N(CC)CC | C6H15N
solvent | ethanol | 0.48 M, 5 mL | C(C)O | C2H6O
product | (Z)-5-((2-(Methylthio)-6-(trifluoromethyl)pyrimidin-4-yl)methylene)thiazolidine-2,4-dione | 212 mg | CSC1=NC(=CC(=N1)\C=C/1\C(NC(S1)=O)=O)C(F)(F)F | C10H6F3N3O2S2
